US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(N-cyclohexylcarbamoyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Cyclohexyl isocyanate (363 mg) was added to a solution of 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (800 mg) in tetrahydrofuran (50 ml), the mixture was refluxed for 2 days. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby obtain 790 mg of the title compound (Yield: 68%).

reactant | Cyclohexyl isocyanate | 363 mg | C1(CCCCC1)N=C=O | C7H11NO
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 800 mg | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-oxo-3-tert-butoxycarbonylamino-5-(N-cyclohexylcarbamoyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 790 mg, Yield: 68% | O=C1C(CN(C2=C(N1)C=CC=C2)C(NC2CCCCC2)=O)NC(=O)OC(C)(C)C | C21H30N4O4
